US05086051
N-(3-Morpholinopropoxy)phthalimide may be obtained in the following manner: solution of 3-morpholinopropanol (27.5 g), N-hydroxyphthalimide (30.2 g) and triphenylphosphine (47.2 g) in tetrahydrofuran (400 cc) is cooled to a temperature in the region of 0° C. and ethyl azodicarboxylate (37.65 g) is added in the course of 1 hour 30 minutes. The solution obtained is stirred at a temperature in the region of 20° C. for 18 hours and is then concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 40° C. The residue is taken up with ethyl acetate (500 cc) and the suspension obtained is filtered. The filtrate is extracted with N aqueous hydrochloric acid solution (200 cc). The aqueous phase is separated after settling has taken place and then extracted 3 times with ethyl acetate (600 cc in total). The aqueous phase is brought to a pH in the region of 10 by adding N aqueous sodium hydroxide solution and is extracted 3 times with ethyl acetate (300 cc in total). The organic extracts are combined, washed 3 times with distilled water (150 cc in total), dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 40° C. A crude product (25.8 g) is thereby obtained, which is chromatographed on a column 8 cm in diameter containing silica (0.060 mm) (1 kg). The column is eluted with pure ethyl acetate, collecting 500-cc fractions. The first 12 fractions are discarded; the next 48 fractions are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the region of 40° C. N-(3-Morpholinopropoxy)phthalimide (15.5 g) is thereby obtained in the form of white crystals, m.p. 98° C. 3-Morpholinopropanol may be obtained according to O. HROMATKA, Ber., 75, 131, (1942).

reactant | 3-morpholinopropanol | 27.5 g | O1CCN(CC1)CCCO | C7H15NO2
reactant | N-hydroxyphthalimide | 30.2 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 47.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl azodicarboxylate | 37.65 g | N(=NC(=O)[O-])C(=O)OCC
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
product | N-(3-Morpholinopropoxy)phthalimide | 15.5 g | O1CCN(CC1)CCCON1C(C=2C(C1=O)=CC=CC2)=O | C15H18N2O4
